US08198311B2
(g) 2-(4-(1-(4-Fluorophenyl)-1H-indazol-5-yl)tetrahydro-2H-pyran-4-yl)-2-methylpropanoic acid (50 mg, 0.13 mmol) was dissolved in 5 mL DCM, 32 uL pyridine, and treated with 27 uL cyanuric fluoride. After 1 h, the reaction was extracted from NaHCO3 with EtOAc×3. The combined organic layers were dried over MgSO4, filtered, concentrated and taken up in 2 mL NMP and treated with triethylamine (100 uL) and NH4Cl (50 mg). The reaction was purified by HPLC to give 23 mg of 2-(4-(1-(4-fluorophenyl)-1H-indazol-5-yl)tetrahydro-2H-pyran-4-yl)-2-methylpropanamide. (M+H)+=382.

reactant | 2-(4-(1-(4-Fluorophenyl)-1H-indazol-5-yl)tetrahydro-2H-pyran-4-yl)-2-methylpropanoic acid | 0.13 mmol, 50 mg | FC1=CC=C(C=C1)N1N=CC2=CC(=CC=C12)C1(CCOCC1)C(C(=O)O)(C)C | C22H23FN2O3
reactant | pyridine | 32 uL | N1=CC=CC=C1 | C5H5N
reactant | cyanuric fluoride | 27 uL | N1=C(F)N=C(F)N=C1F | C3F3N3
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | 2-(4-(1-(4-fluorophenyl)-1H-indazol-5-yl)tetrahydro-2H-pyran-4-yl)-2-methylpropanamide | 23 mg | FC1=CC=C(C=C1)N1N=CC2=CC(=CC=C12)C1(CCOCC1)C(C(=O)N)(C)C | C22H24FN3O2
